US06479508B1
The carbamate from above (1.037 g, 3.1 mmol) was dissolved in DMF (10 mL). Imidazole (0.422 g, 6.2 mmol) and tert-butyldiphenylsilyl chloride (0.847 mL, 3.26 mmol) were added and the mixture stirred overnight at room temperature. Water (50 mL) was added and the mixture extracted with Et2O (2×50 mL). The extract was washed with 10% citric acid (25 mL), 5% NaHCO3 (25 mL) and brine (25 mL). The solution was dried (MgSO4) and evaporated to give the fully protected 5-hydroxytryptophan derivative as a white foam (1.738 g).

reactant | carbamate | C(N)([O-])=O
reactant | Imidazole | 6.2 mmol, 0.422 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 3.26 mmol, 0.847 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | Water | 50 mL | O | H2O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-hydroxytryptophan | 1.738 g | OC1=CC=C2NC=C(C[C@H](N)C(=O)O)C2=C1 | C11H12N2O3
